US06692906B1
A silver-phthalazine dispersion (1:1 molar ratio) was prepared by first dissolving 1.96 g phthalazine and 0.78 g of 35% gelatin solution (cattle bone, alkali treated, deionized gelatin) in 37.2 g demineralized water. This solution was stirred vigorously at room temperature while adding 4.70 g of 5.72 M AgNO3 solution.

reactant | phthalazine | 1.96 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | AgNO3 | 5.72 M, 4.70 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | silver phthalazine | [Ag].C1=NN=CC2=CC=CC=C12 | InChI=1S/C8H6N2.Ag/c1-2-4-8-6-10-9-5-7(8)3-1;/h1-6H;
